US04254274
4-(2-Oxo-1-cyclopentylidenemethyl)phenylacetic acid
A mixture of 0.4 g of ethyl 4-(2-oxo-1-cyclopentylidenemethyl)phenylacetate in 100 ml of a 10% aqueous solution of hydrobromic acid and 10 ml of dioxane was heated under reflux for 1 hour. After cooling, the reaction mixture was extracted with ether, an ether layer was washed with water and dried. The ether was distilled off and the residual oily substance was distilled under reduced pressure to give 0.1 g of an oily substance having a boiling point of 205°-210° C./0.25 mmHg.

reactant | ethyl 4-(2-oxo-1-cyclopentylidenemethyl)phenylacetate | 0.4 g | O=C1C(CCC1)=CC1=CC=C(C=C1)CC(=O)OCC | C16H18O3
reactant | hydrobromic acid | Br | BrH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Oxo-1-cyclopentylidenemethyl)phenylacetic acid | O=C1C(CCC1)=CC1=CC=C(C=C1)CC(=O)O | C14H14O3
